US04818753
Preparation of 4-Acetamido-3-cyano-2-methylbenzaldehyde
To a solution of sodium methoxide, 0.43 g, in 100 ml of methanol, was added 0.84 g of 2-nitropropane. After 15 min, 2 g of 2-methyl-3-bromomethyl-6-acetamidobenzonitrile was added and the resulting solution was stirred for 2.5 h at ambient temperature. The solvent was then evaporated at reduced pressure and the residue dissolved in chloroform. The chloroform solution was filtered, washed with H2O, dried and the solvent removed at reduced pressure. The residue was crystallized from chloroform-carbon tetrachloride to yield 0.8 g (53%) of product, m.p. 170°-173° C. NMR (CDCl3) 2.30 (3H, s, CH3CO--N), 2.90 (3H, s, CH3), 8.00 (1H, d, C--5H), 8.6 (1H, d, C--6H), 10.20 (1H, s, (CHO)d. Anal. calc'd for CH11H10N2O2.1/3H2O: C, 63.5; H, 4.84; N, 13.5. Found: C, 63.4; H, 5.00; N, 13.7.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-nitropropane | 0.84 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | 2-methyl-3-bromomethyl-6-acetamidobenzonitrile | 2 g | CC1=C(C#N)C(=CC=C1CBr)NC(C)=O | C11H11BrN2O
solvent | methanol | 100 ml | CO | CH4O
product | 4-Acetamido-3-cyano-2-methylbenzaldehyde | 0.8 g, 53% | C(C)(=O)NC1=C(C(=C(C=O)C=C1)C)C#N | C11H10N2O2
